US08729263B2
Following standard GENERAL METHOD 1-4 for Suzuki coupling using tert-butyl(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)dimethylsilane (408 mg, 1.12 mmol) and 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine (200 mg, 0.75 mmol) affords 3-methoxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazin-3-yl)phenol (165 mg) MS [M+H+]=356.1.

reactant | tert-butyl(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)dimethylsilane | 1.12 mmol, 408 mg | C(C)(C)(C)[Si](C)(C)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C19H33BO4Si
reactant | 3-chloro-6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazine | 0.75 mmol, 200 mg | ClC=1N=NC(=CC1)CC1CC(NC(C1)(C)C)(C)C | C14H22ClN3
product | 3-methoxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)methyl)pyridazin-3-yl)phenol | 165 mg | COC=1C=C(C=CC1C=1N=NC(=CC1)CC1CC(NC(C1)(C)C)(C)C)O | C21H29N3O2
